US08865713B2
Step A: 6-Chloro-5-trifluoromethoxy-1H-benzoimidazole.
A mixture of 5-chloro-2-nitro-4-trifluoromethoxy-phenylamine (2.00 g, 7.80 mmol), sodium dithionite (7.06 g, 40.5 mmol), trimethyl orthoformate (23.1 mL, 210 mmol), DMF (23 mL), and acetic acid (4.0 mL) was heated in a sealed tube for 15 h at 100° C. The reaction mixture was cooled to 23° C. and partitioned between EtOAc (100 mL) and saturated aq. NaHCO3 (100 mL). The organic layer was collected and the aqueous layer was extracted with EtOAc (2×80 mL). The combined organic layers were dried, filtered, and concentrated under reduced pressure. The residue was purified (FCC) (0-15% MeOH/DCM) to yield the titled compound (1.46 g, 78%). MS (ESI/CI): mass calcd. for C8H4ClF3N2O, 236.0; m/z found, 237.0 [M+H]+. 1H NMR (500 MHz, CDCl3): 8.11 (s, 1H), 7.74 (s, 1H), 7.64 (s, 1H).

reactant | 5-chloro-2-nitro-4-trifluoromethoxy-phenylamine | 7.80 mmol, 2.00 g | ClC=1C(=CC(=C(C1)N)[N+](=O)[O-])OC(F)(F)F | C7H4ClF3N2O3
reactant | sodium dithionite | 40.5 mmol, 7.06 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | trimethyl orthoformate | 210 mmol, 23.1 mL | C(OC)(OC)OC | C4H10O3
reactant | DMF | 23 mL | CN(C)C=O | C3H7NO
solvent | acetic acid | 4.0 mL | C(C)(=O)O | C2H4O2
product | 6-Chloro-5-trifluoromethoxy-1H-benzoimidazole | 1.46 g, 78% | ClC=1C(=CC2=C(NC=N2)C1)OC(F)(F)F | C8H4ClF3N2O
